US09388149B2
1.62 ml (11.68 mmol; 1.2 eq) of triethylamine followed by 1.20 ml (10.71 mmol; 1.1 eq) of 1-methylpiperazine were added to a solution of 3.0 g (9.73 mmol; 1.0 eq) of 2-tert-butyl-6-chlorobenzoxazole-7-sulfonyl chloride (commercial ?) in 45 ml of tetrahydrofuran. The reaction medium was stirred at ambient temperature for 2 hours. Water was added and the reaction medium was extracted with ethyl acetate. The organic phases were combined, dried over magnesium sulfate, filtered and evaporated. 3.57 g of 2-tert-butyl-6-chloro-7-(4-methylpiperazine-1-sulfonyl)benzooxazole were obtained in the form of a tacky brown foam. Yield=98%.

reactant | triethylamine | 11.68 mmol, 1.62 ml, 1.2 eq | C(C)N(CC)CC | C6H15N
reactant | 1-methylpiperazine | 10.71 mmol, 1.20 ml, 1.1 eq | CN1CCNCC1 | C5H12N2
reactant | 2-tert-butyl-6-chlorobenzoxazole-7-sulfonyl chloride | 9.73 mmol, 3.0 g, 1.0 eq | C(C)(C)(C)C=1OC2=C(N1)C=CC(=C2S(=O)(=O)Cl)Cl | C11H11Cl2NO3S
reactant | Water | O | H2O
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
product | 2-tert-butyl-6-chloro-7-(4-methylpiperazine-1-sulfonyl)benzooxazole | 3.57 g, Yield=98% | C(C)(C)(C)C=1OC2=C(N1)C=CC(=C2S(=O)(=O)N2CCN(CC2)C)Cl | C16H22ClN3O3S
